US06031015
Synthesis of diethyl-2,5-bis-(10-bromodecoxy)terephthalate
25.4 g (0.1 mol) diethyl-2,5-dihydroxyterephthalate, 450 g (1.5 mol) 1,10-dibromodecane, 138 g (1.0 mol) K2CO3 and 200 mg NaI in 200 ml acetone are heated under reflux for 28 hours until the originally yellow suspension has decolorized. After distilling off the solvent, the reaction mixture is extracted twice with diethyl ether (2×250 ml), and insoluble salts are filtered off. The filtrate is washed twice with 200 ml water and dried over Na2SO4. The solvent is then distilled off. The colourless, solid residue is washed twice with petroleum ether and then recrystallized from petroleum ether.

reactant | diethyl-2,5-dihydroxyterephthalate | 0.1 mol, 25.4 g | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)O)O)=O | C12H14O6
reactant | 1,10-dibromodecane | 1.5 mol, 450 g | BrCCCCCCCCCCBr | C10H20Br2
reactant | K2CO3 | 1.0 mol, 138 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | diethyl-2,5-bis-(10-bromodecoxy)terephthalate | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OCCCCCCCCCCBr)OCCCCCCCCCCBr)=O | C32H52Br2O6
